US07557103B2
C. 3-[8-(1-Ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-2-methyl-imidazo[1,2-a]pyridine-8-carboxaldehyde
A solution of 3-(8-diethoxymethyl-2-methyl-imidazo[1,2-a]pyridin-3-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (2.33 g, 5.20 mmol) in acetone (25 mL) is treated with 5 M HCl (1.0 mL, 5 mmol) and the resulting solution is refluxed for 4 h. The organic solvent is removed in vacuo; the residue is diluted with H2O (100 mL), the pH is adjusted to 8-9 using sat. NaHCO3; the mixture is extracted with EtOAc (2×100 mL); dried with Na2SO4; filtered and concentrated, and purification of the crude material by silica gel chromatography gives the title compound (1.39 g, 3.72 mmol, 71%). 1H NMR (CDCl3): δ. 0.92 (t, J=7.5 Hz, 3H), 0.93 (t, J=7.5 Hz, 3H), 1.81-1.95 (m, 4H), 2.43 (s, 3H), 2.44 (s, 3H), 2.51 (s, 3H), 3.30-3.42 (m, 1H), 6.76 (s, 1H), 6.91 (t, J=7.0 Hz, 1H), 7.74 (dd, J=7.0, 1.3 Hz, 1H), 7.78 (dd, J=7.0, 1.3 Hz, 1H), 10.84 (s, 1H) ppm. ES-MS (m/z): calcd for C22H25N5O (M+H)+: 376.5. found: 376.2.

reactant | 3-(8-diethoxymethyl-2-methyl-imidazo[1,2-a]pyridin-3-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 5.20 mmol, 2.33 g | C(C)OC(C=1C=2N(C=CC1)C(=C(N2)C)C2=C(N=C1N2N=C(C=C1C(CC)CC)C)C)OCC | C26H35N5O2
reactant | HCl | 5 mmol, 5 M, 1.0 mL | Cl | ClH
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | 3-[8-(1-Ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazin-3-yl]-2-methyl-imidazo[1,2-a]pyridine-8-carboxaldehyde | 3.72 mmol, 1.39 g, 71% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(N=C1N2C=CC=C1C=O)C | C22H25N5O
